US06992184B2
Preparation of 2-Methyl-2-Phthalimidopropanoyl Chloride
Thionyl chloride (750 ml, 10.28 mol) was added to 2-methyl-2-phthalimidopropanoic acid (385 g, 1.65 mol) and the mixture refluxed under nitrogen for 3 hours. Excess thionyl chloride was removed under reduced pressure to yield a solid. The solid was washed with diethyl ether (2×250 ml) to yield the title compound as a white crystalline solid (408.2 g, 98%).

reactant | Thionyl chloride | 10.28 mol, 750 ml | S(=O)(Cl)Cl | Cl2OS
reactant | 2-methyl-2-phthalimidopropanoic acid | 1.65 mol, 385 g | CC(C(=O)O)(C)N1C(C=2C(C1=O)=CC=CC2)=O | C12H11NO4
product | 2-Methyl-2-Phthalimidopropanoyl Chloride | 408.2 g, 98% | CC(C(=O)Cl)(C)N1C(C=2C(C1=O)=CC=CC2)=O | C12H10ClNO3
